Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
ABD Distention, Dyspnea 
 
Major Surgical or Invasive Procedure:
___ diagnostic and therapeutic paracentesis 6.1L 
___ diagnostic and therapeutic paracentesis 2.5L
___ therapeutic paracentesis 1.6L
___ diagnostic and therapeutic paracentesis 2.5L

 
History of Present Illness:
___ year old female with HCV (genotype 1a) and EtOH cirrhosis
(child's class B) c/b ascites, varices, and hepatic
encephalopathy, current polysubstance abuse, COPD, HTN, and HLD
who presented with abdominal distention and SOB, referred by Dr.
___ to ED for tense ascites and c/f SBP. 

Patient reports abdominal distension and pain for the past week,
associated with SOB and poor PO. This feels similar to past
episodes of reaccumulating ascites. No f/c. Had emesis x4 total
in recent days, no hematemesis. She reports baseline mild dry
cough and SOB with exertion due to her underlying COPD. She
reports being compliant with her home medications and with a low
sodium diet. Reports she is supposed to go for outpatient para
every week, but has not been able to keep up with the schedule
due to some miscommunication. 

Of note, she was recently admitted ___ with
abdominal distension and SOB, found to have tense ascites, after
missing some routine para appointments outpatient. She received
large volume paracentesis and was discharged with plan for 
q1week
to q2week paracenteses. Since then, she has had paracentesis
___ for 8.2L, ___ for 7L, ___ for 9L, ___ for 6.2L (in
ED visit). 

 In the ED initial vitals:  97.2 , 58 , 123/61 , 17 , 100% RA 

 - Exam notable for:  
Lungs are clear to auscultation bilaterally with no wheezes or
rales. There are diminished breath sounds at the bases.
There is a regular heart rate no murmur
Abdomen is tense and distended

 - Imaging notable for:  
RUQ U/S: 1. Patent main portal vein. 2. Cirrhotic liver and
likely sequela of portal hypertension, including large amount of
ascites and splenomegaly.  No focal hepatic lesion. 
CXR: no acute process 

 - Labs notable for: diagnostic paracentesis without e/o SBP.
CBC, BMP, LFTs stable. 

 - Patient was given:  
___ 01:12 PO Pantoprazole 80 mg ___  
___ 01:12 PO/NG Furosemide 40 mg ___  
___ 01:12 PO/NG Lactulose 15 mL ___  
___ 08:11 PO/NG Valsartan 320 mg ___  
___ 08:11 PO/NG Rifaximin 550 mg ___  
___ 08:11 PO/NG amLODIPine 5 mg ___  
___ 08:11 PO/NG Lactulose 15 mL ___  
___ 08:11 PO Loratadine 10 mg ___  
___ 08:11 PO TraMADol 50 mg ___  
___ 16:28 IH Fluticasone-Salmeterol Diskus (500/50) 1 INH
___  
___ 16:28 IH Tiotropium Bromide 1 CAP ___  
___ 16:35 PO/NG Lactulose 15 mL ___ 

 - Vitals prior to transfer: 97.8 , 64 , 90/52 , 18 , 99% RA 

On the floor, she reports history as above. Sensation of
abdominal fullness is improved now after receiving therapeutic
paracentesis in the ED. Still has abdominal pain, though notes
she has chronic abdominal pain at baseline. Chronic pain is
diffuse, but current pain is sharp and centered around 
epigastric
and periumbilical area. Reports PCP was planning to start lyrica
to help with pain control. Denies h/o prior withdrawal. 

 REVIEW OF SYSTEMS: 
10-point ROS is negative except as in HPI above. 

 
Past Medical History:
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair
 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
 VS:  97.6PO 104 / 65R Lying 64 18 97 RA  
 GENERAL:  chronically ill malnourished appearing woman in bed 
in
NAD
 HEENT:  NC/AT, PERRL, tacky MM, OP clear
 NECK:  supple, no LAD
 CARDIAC:  RRR, no m/r/g
 PULMONARY:  CTAB, comfortable on RA
 ABDOMEN:  soft, distended, +BS, moderately tender to palpation
throughout, worst periumbilically 
 GENITOURINARY: no foley 
 EXTREMITIES:  thin, no ___
 SKIN:  no rashes noted 
 NEUROLOGIC:  alert, oriented, mentating well, no asterixis, has
a fine tremor ?baseline. 
 PSYCHIATRIC:  pleasant, calm, sad affect 

DISCHARGE PHYSICAL EXAMINATION:  
VS: 98.0PO, 118 / 69L Sitting, 80, 18, 100 Ra  
GENERAL: NAD 
HEENT:  NC/AT, dry MM, posterior OP with small white plaques 
NECK:  supple, no LAD
CARDIAC:  RRR, no m/r/g
PULMONARY:  CTAB, comfortable on RA 
ABDOMEN:  soft, distended, +BS, mildly tender to palpation
throughout and worse at site of hernia. hernia superior to
umbilicus 
GENITOURINARY: no foley 
EXTREMITIES:  thin, no ___
SKIN:  no rashes noted 
NEUROLOGIC:  alert, oriented, mentating well, no asterixis, has
a fine tremor 
PSYCHIATRIC:  pleasant, calm, sad affect 
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 06:20PM BLOOD WBC-4.6 RBC-3.31* Hgb-8.4* Hct-28.0* 
MCV-85 MCH-25.4* MCHC-30.0* RDW-18.6* RDWSD-56.9* Plt ___
___ 06:20PM BLOOD Neuts-74.2* Lymphs-12.7* Monos-10.8 
Eos-1.5 Baso-0.4 Im ___ AbsNeut-3.44 AbsLymp-0.59* 
AbsMono-0.50 AbsEos-0.07 AbsBaso-0.02
___ 06:20PM BLOOD ___ PTT-35.3 ___
___ 06:20PM BLOOD Glucose-91 UreaN-11 Creat-0.8 Na-140 
K-4.4 Cl-105 HCO3-22 AnGap-13
___ 06:20PM BLOOD ALT-12 AST-36 AlkPhos-130* TotBili-1.0
___ 06:20PM BLOOD Albumin-3.3* Calcium-8.3* Phos-4.2 Mg-2.3 
Iron-38
___ 06:20PM BLOOD calTIBC-335 Ferritn-19 TRF-258
___ 06:20PM BLOOD TSH-4.1
___ 06:20PM BLOOD Ethanol-NEG
___ 05:27PM BLOOD HCV VL-6.1*
___ 06:35PM BLOOD Lactate-1.7

RELEVANT LABS: 
==============
___ 06:40AM BLOOD calTIBC-244* Hapto-25* Ferritn-15 
TRF-188*
___ 06:20PM BLOOD calTIBC-335 Ferritn-19 TRF-258
___ 05:58AM BLOOD %HbA1c-5.4 eAG-108
___ 06:20PM BLOOD TSH-4.1
___ 05:27PM BLOOD HCV VL-6.1*
___ 05:27PM BLOOD HEPATITIS C VIRAL RNA, GENOTYPE-Test      

___ 07:39AM ASCITES TNC-499* RBC-904* Polys-1* Lymphs-29* 
___ Macroph-69* Other-1*
___ 07:39AM ASCITES TotPro-1.5 Glucose-200 Albumin-0.7

MICROBIOLOGY: 
=============
___ blood cx - prelim negative but cancelled 
___ urine cx negative 
___ peritoneal cx negative 
___ urine cx negative 
___ peritoneal cx - negative 
___ c diff negative 
___ peritoneal cx - pending 

STUDIES: 
========

CT ABD & PELVIS W/O CONTRAST Study Date of ___  
1. Cirrhotic liver with splenomegaly and moderate to large 
volume simple 
ascites. 
2. No free intraperitoneal air or hemoperitoneum. 
3. Supraumbilical hernia containing mesenteric vessels, fat and 
ascitic fluid. 

PORTABLE ABDOMEN Study Date of ___  
1. Nonobstructive bowel gas pattern, with mild to moderate fecal 
loading noted 
within the ascending and descending colon. 
2. No evidence of gross pneumoperitoneum on supine abdominal 
radiograph.  
However, assessment for free intraperitoneal air is limited on 
supine 
radiographs. If there is clinical concern for pneumoperitoneum, 
consider 
upright or left lateral decubitus radiograph, or cross-sectional 
imaging. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___  

1. Patent main portal vein. 
2. Cirrhotic liver and likely sequela of portal hypertension, 
including large 
amount of ascites and splenomegaly.  No focal hepatic lesion. 

 CHEST (PA & LAT) Study Date of ___  
No acute cardiopulmonary abnormality.  Bullous emphysema.

DISCHARGE LABS: 
===============
___ 05:37AM BLOOD WBC-5.1 RBC-3.21* Hgb-8.5* Hct-28.0* 
MCV-87 MCH-26.5 MCHC-30.4* RDW-20.0* RDWSD-60.9* Plt Ct-81*
___ 05:37AM BLOOD ___ PTT-39.2* ___
___ 05:37AM BLOOD Glucose-221* UreaN-21* Creat-0.9 Na-132* 
K-5.2* Cl-98 HCO3-20* AnGap-14
___ 05:37AM BLOOD ALT-31 AST-63* AlkPhos-154* TotBili-0.8
___ 05:37AM BLOOD Albumin-3.3* Calcium-8.6 Phos-3.7 Mg-2.___ year old female with HCV (genotype 1a) and EtOH cirrhosis 
(Child class B) c/b ascites, varices, and hepatic 
encephalopathy, polysubstance abuse, COPD, HTN, and HLD who 
presented with abdominal distension due to decompensated 
ascites, with paracentesis negative for SBP. Course complicated 
by hyperkalemia likely due to spironolactone effect. 

ACTIVE ISSUES: 

# Abdominal distension 
# Abdominal pain 
Patient presented with abdominal distension and pain, due to 
large ascites, with paracentesis negative for SBP. Paracentesis 
on admission removed 6.1L fluid. She continued to have baseline 
chronic abdominal pain this admission. Her home diuretic regimen 
was uptitrated, from Lasix 20 to 40 daily. She was trialed on 
spironolactone, but became hyperkalemic as below, so 
spironolactone was discontinued. She received multiple 
paracenteses over the course of admission, with the most recent 
on ___ with removal of 2.5 L of fluid (no albumin was given 
after). An order was placed in OMR to have weekly outpatient 
therapeutic paracenteses. 

# Hyperkalemia, improved
Patient became hyperkalemic this admission to peak K 5.7. This 
was likely due to spironolactone effect; K was WNL prior to 
initiation of spironolactone. She did not have EKG changes. She 
received her PO Lasix and no other temporizing measures, and K 
on day of discharge ___ was 5.2. Would be hesitant to give 
her spironolactone in the future, as she was very sensitive to 
hyperkalemic medication effect. 

# Acute on chronic anemia 
Patient with acute on chronic anemia, hgb dropping from 8.4 to 
5.5, with transient hypotension after her paracentesis. There 
was concern for bleed, but CT A/P was negative. She was 
transfused 2U pRBC with hgb bumping to 9.4. Hemolysis labs were 
not convincing for hemolysis being the primary cause of her 
anemia. Given her stability, and lack of active bleeding with 
negative stool guaiac x1, inpatient EGD was deferred. She will 
need outpatient EGD scheduled. 

CHRONIC ISSUES: 

# Cirrhosis 
Genotype 1a HCV. Child's B cirrhosis. Complicated in the past by 
esophageal varices, ascites, HE.
- HCV: Not treated. HCV VL 6.1 this admission. Will need 
treatment in the future. 
- ASCITES: As above, this admission she received multiple 
therapeutic paracenteses, with most recent paracentesis on 
___ with removal of 2.5 L of fluid. Lasix was uptitrated 
from 20 to 40 daily. She could not tolerate spironolactone due 
to hyperkalemia. An order was placed in ___ to have weekly 
outpatient therapeutic paracenteses. 
- SBP: No h/o SBP. No SBP on diagnostic para this admission.
- BLEEDING: 3 small varices on last EGD ___. She had been on 
nadolol 10mg daily in the past but it was discontinued prior to 
admission. 
- ENCEPHALOPATHY: h/o HE in past. Continued home 
lactulose/rifaximin.
- ___ SCREENING: Last EGD in ___. Most recent RUQUS on 
presentation WNL. 
- NUTRITION: Encouraged adherence to low sodium diet. Nutrition 
discussed feeding tube with patient but she refused. 

# Polysubstance abuse 
Patient currently with ETOH and infrequent cocaine use. Remote 
IVDU. No history of withdrawal. ETOH neg, urine tox with 
cocaine. She was seen by social work this admission with social 
work follow up outpatient. 

# Chronic pain 
Patient with significant chronic pain at baseline, managed by 
her PCP on home ___ and tramadol. She was started on lyrica 
this admission, given that her PCP had been planning to do so as 
an outpatient. 

# HTN 
Patient on home valsartan and amlodipine. However BPs generally 
ranged ___ this admission while antihypertensives 
were held. Amlodipine and valsartan were held on discharge. 

# COPD: Continued home albuterol, tiotropium, advair.

# PRIMARY PREVENTION: Continued home aspirin, statin. 

# ALLERGIES: Continued home loratadine and Flonase.

# GERD: Continued home pantoprazole

TRANSITIONAL ISSUES: 
- An order was placed in ___ for future date therapeutic 
paracentesis on ___. The radiology department is to call patient 
with date and time. she will need this procedure weekly. INR <2, 
PLT >50. 
- Please obtain repeat BMP at next PCP office visit on ___ to 
ensure K stability. Monitor renal function and titrate diuretics 
accordingly.
- Caution with spironolactone in the future given sensitivity to 
hyperkalemia. 
- Started on lyrica for pain control this admission per 
outpatient plan from PCP. Please uptitrate as appropriate. 
- Needs outpatient EGD given question of bleed. 
- Will need eventual treatment of HCV. 
- Held antihypertensives amlodipine and valsartan on discharge, 
given SBPs generally ___ while off of antihypertensives this 
admission. 
- Recommend to continue zinc supplement for total 14 days, given 
malnutrition and hair loss (ending on ___. 
- Please continue to encourage sobriety from EtOH and drugs. 
- Of note, patient fingersticks were noted to range from 148 
fasting to 352 post prandially. Hba1c 5.4% on admission. Please 
recheck as outpatient glycemic control. 

# CODE: Presumed FULL 
# CONTACT: ___ 
Relationship: boyfriend 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. Lactulose 30 mL PO Q8H:PRN constipation 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Polyethylene Glycol 17 g PO DAILY 
8. Rifaximin 550 mg PO BID 
9. Simethicone 40-80 mg PO QID 
10. Simvastatin 20 mg PO QPM 
11. Thiamine 100 mg PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
14. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
15. HydrOXYzine 25 mg PO BID:PRN itch 
16. Loratadine 10 mg PO DAILY allergies 
17. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
18. Furosemide 20 mg PO DAILY 
19. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
20. TraZODone 50 mg PO QHS:PRN insomnia 
21. amLODIPine 5 mg PO DAILY 
22. Ferrous GLUCONATE 324 mg PO DAILY 
23. Valsartan 320 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 mL by mouth four times per day as 
need for thrush in mouth Disp #*1 Bottle Refills:*0 
3.  Pregabalin 75 mg PO BID 
RX *pregabalin [Lyrica] 75 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Zinc Sulfate 220 mg PO DAILY 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth daily 
Disp #*6 Capsule Refills:*0 
5.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
7.  Aspirin 81 mg PO DAILY  
8.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
9.  Ferrous GLUCONATE 324 mg PO DAILY  
10.  Fluticasone Propionate NASAL 1 SPRY NU BID  
11.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
12.  HydrOXYzine 25 mg PO BID:PRN itch  
13.  Lactulose 30 mL PO TID  
14.  Loratadine 10 mg PO DAILY allergies  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
17.  Pantoprazole 40 mg PO Q12H  
18.  Polyethylene Glycol 17 g PO DAILY  
19.  Rifaximin 550 mg PO BID  
20.  Simethicone 40-80 mg PO QID  
21.  Simvastatin 20 mg PO QPM  
22.  Thiamine 100 mg PO DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24.  TraMADOL (Ultram) 50 mg PO TID:PRN pain  
25.  TraZODone 50 mg PO QHS:PRN insomnia  
26. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until your doctor tells you to. 
27. HELD- Valsartan 320 mg PO DAILY  This medication was held. 
Do not restart Valsartan until your doctor tells you to. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Ascites 
Alcoholic Cirrhosis
Hyperkalemia  
Anemia 
Substance abuse 

SECONDARY DIAGNOSIS: 
Chronic pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___ 
___. 

WHY WERE YOU ADMITTED? 
- Your abdomen was very distended with fluid.

WHAT HAPPENED IN THE HOSPITAL? 
- You received paracentesis procedures to drain the large amount 
of fluid that had built up in your abdomen. 
- You had a brief episode of low blood pressure, and your blood 
counts dropped, so we were worried about bleeding. You were 
given 2 blood transfusions. In the end, it did not look like you 
had any active bleeding, and you were stable. 
- Your home diuretic medications ("water pills") were adjusted 
and increased, to help prevent you from reaccumulating fluid so 
fast. 
- Your potassium became elevated, which was likely because of a 
medication effect. Your potassium returned to more normal levels 
by discharge. 

WHAT SHOULD YOU DO ON DISCHARGE? 
- Please follow up with your primary care doctor and liver 
doctor as scheduled.
- An order was placed for you to have weekly paracenteses to 
drain the fluid from your abdomen.  The radiology department 
will call you to schedule a date and time but tentatively for 
next week ___.  
- Please take your medications as instructed. 
- Please be sure to eat well, and to eat a low salt diet.
- Please stay sober from drugs and alcohol and cigarettes.  If 
you are sober, you may be a candidate for a liver transplant. 

We wish you the best, 
Your ___ team 
 
Followup Instructions:
___